US04312943
(4) Preparation of Z-Gln-Trp-OBzl
In 500 ml of THF is dissolved 50.0 g of H-Trp-OBzl. p-toluenesulfonate, and under ice-cooling, 15.4 ml of TEA, 28.0 g of Z-Gln-OH, 19.7 g of HONB and 22.7 g of DCC are added. The mixture is stirred for 15 hours. The precipitated DCU is filtered off, the filtrate concentrated and the residue dissolved in 300 ml of ethyl acetate. The solution is washed with saturated aqueous sodium hydrogen carbonate (150 ml×2), 10% aqueous citric acid (150 ml×2) and water (150 ml×2) in the order mentioned. The solvent is distilled off under reduced pressure, the residue dissolved in 300 ml of THF and the insolubles are filtered off. The filtrate is concentrated and precipitated with 500 ml of diethyl ether. The resultant powders are collected by filtration and recrystallized from acetonitrile. Yield 46.1 g (82.8%); [α]D23 +5.8°(c=1.0, DMF); Rf1 =0.60.

reactant | H-Trp-OBzl | 50.0 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C18H18N2O2
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | Z-Gln-OH | 28.0 g | N([C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H16N2O5
reactant | HONB | 19.7 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 22.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | Z-Gln-Trp-OBzl | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C31H32N4O6
